US06995263B2
In analogy to the procedure described in example 5 f], (6-hydroxy-indol-1-yl)-acetic acid tert-butyl ester (example 5 b]) was reacted with 2-[2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-ethanol in the presence of di-tert-butyl azodicarboxylate and triphenylphosphine in tetrahydrofuran to yield (5-{2-[2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-ethoxy}-indol-1-yl)-acetic acid tert-butyl ester as colorless liquid.

reactant | (6-hydroxy-indol-1-yl)-acetic acid tert-butyl ester | C(C)(C)(C)OC(CN1C=CC2=CC=C(C=C12)O)=O | C14H17NO3
reactant | 2-[2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-ethanol | CC1=NC(=CC=C1CCO)C1=CC=C(C=C1)C(F)(F)F | C15H14F3NO
reactant | di-tert-butyl azodicarboxylate | N(=NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18N2O4
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | (5-{2-[2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-ethoxy}-indol-1-yl)-acetic acid tert-butyl ester | C(C)(C)(C)OC(CN1C=CC2=CC(=CC=C12)OCCC=1C(=NC(=CC1)C1=CC=C(C=C1)C(F)(F)F)C)=O | C29H29F3N2O3
